US08076486B2
(2-Fluoro-4-iodo-phenyl)-{4-[5-(2-morpholin-4-yl-ethylamino)-[1,3,4]oxadiazol-2-yl]-pyridin-3-yl}-amine
To a solution of 3-(2-Fluoro-4-iodo-phenylamino)-isonicotinic acid hydrazide (500 mg; 1.34 mmol; 1 eq) in DCM (5 mL) 4-(3-Isothiocyanato-ethyll)-morpholine (255 mg; 1.61 mmol; 1.2 eq) was added. The reaction mixture was refluxed for 4 hrs under argon. A yellow solid precipitated out, which was filtered to afford an intermediate that was suspended in ethanol (5 mL). Iodomethane (190 mg; 1.34 mmol; 1.0 eq) was then added and the reaction mixture was stirred overnight at RT. It was then heated to 80° C. and stirred for another 2 hr. Filtration afforded the yellow solid product 153 mg. LC/MS (Method A) [0.41 min; 511(M+1)]

reactant | 3-(2-Fluoro-4-iodo-phenylamino)-isonicotinic acid hydrazide | 1.34 mmol, 500 mg, 1 eq | FC1=C(C=CC(=C1)I)NC1=C(C(=O)NN)C=CN=C1 | C12H10FIN4O
reactant | DCM | 1.61 mmol, 5 mL, 255 mg, 1.2 eq | C(Cl)Cl | CH2Cl2
reactant | Iodomethane | 1.34 mmol, 190 mg, 1.0 eq | IC | CH3I
reactant | ethanol | 5 mL | C(C)O | C2H6O
product | (2-Fluoro-4-iodo-phenyl)-{4-[5-(2-morpholin-4-yl-ethylamino)-[1,3,4]oxadiazol-2-yl]-pyridin-3-yl}-amine | 153 mg | FC1=C(C=CC(=C1)I)NC=1C=NC=CC1C=1OC(=NN1)NCCN1CCOCC1 | C19H20FIN6O2
